US04218236
a. Formation of 5-[1-(2-methylphenoxy)ethyl]-2-amino- 1,3,4-thiadiazole
A 100 milliliter flask adapted with a paddle stirrer, thermometer, an addition funnel, condenser and drying tube was charged with 7.2 grams (0.040 mole) of 2-(2-methylphenoxy)propanoic acid, 3.6 grams, (0.040 mole) of thiosemicarbazide and 30 milliliters of dioxane. The slurry was heated to 90° C. and the addition funnel was charged with phosphorous oxychloride (POCl3). The POCl3 (6.7 grams; 0.044 mole) was slowly added (for 20 minutes) while maintaining the temperature within 90°-95° C., a gooey white precipitate formed. When the addition was completed the mixture was refluxed for 60 minutes. The flask was evacuated by using a water aspirator to remove volatiles (HCl, POCl3 and some dioxane), and then 50 milliliters of water was added and mixture was made basic by the addition of 50 percent solution of NaOH until the pH of the solution was 10. The white precipate was filtered off, washed with water and dissolved in the minimum amount of 95 percent ethanol, to which a small amount of a 10 percent sodium hydroxide solution was added to make the ethanol solution basic. Water was added until a precipitate formed and the solution was cooled in the refrigerator, then suctioned filtered. The precipitate was washed with water, and dried in a vacuum oven at 70° C. to white crystals of 5-[1-(2-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole (6.8 grams--melting point 176°-179° C.)

reactant | 2-(2-methylphenoxy)propanoic acid | 0.040 mole, 7.2 grams | CC1=C(OC(C(=O)O)C)C=CC=C1 | C10H12O3
reactant | thiosemicarbazide | 0.040 mole | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 0.044 mole, 6.7 grams | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 30 milliliters | O1CCOCC1 | C4H8O2
product | 5-[1-(2-methylphenoxy)ethyl]-2-amino- 1,3,4-thiadiazole | CC1=C(OC(C)C2=NN=C(S2)N)C=CC=C1 | C11H13N3OS
